US07754755B2
4-[2-(1H-Indol-3-yl)-ethylsulfamoyl]-benzoic acid
To 3.0 g (18.7 mmol) of tryptamine in 20 ml of CH2Cl2 was added, 2.5 ml (18.7 mmol) of triethylamine followed by 2.06 g (9.4 mmol) of 4-(chlorosulphonyl) benzoic acid. After stirring for 2 h, the mixture was extracted with CH2Cl2 (3×50 ml) and the combined organic extracts were washed with water and dried and evaporated. The residue was chromatographed on silica gel using 2:98:0.5 MeOH/CH2Cl2/AcOH to afford the title compound as a solid. MS m/e 345; HPLC retention time 2.52 min.

reactant | tryptamine | 18.7 mmol, 3.0 g | NCCC1=CNC2=CC=CC=C12 | C10H12N2
reactant | triethylamine | 18.7 mmol, 2.5 ml | C(C)N(CC)CC | C6H15N
reactant | 4-(chlorosulphonyl) benzoic acid | 9.4 mmol, 2.06 g | ClS(=O)(=O)C1=CC=C(C(=O)O)C=C1 | C7H5ClO4S
solvent | CH2Cl2 | 20 ml | C(Cl)Cl | CH2Cl2
product | 4-[2-(1H-Indol-3-yl)-ethylsulfamoyl]-benzoic acid | N1C=C(C2=CC=CC=C12)CCNS(=O)(=O)C1=CC=C(C(=O)O)C=C1 | C17H16N2O4S
